US07439395B2
1.54 g (11.48 mmol) of sodium methylsulfate and 10 ml of dry acetonitrile are added under an inert-gas atmosphere to 1.96 g (11.46 mmol) of bis(dimethylamino)dichloromethane. The reaction mixture is stirred for 5 hours at room temperature, and the precipitate of NaCl is filtered off. The solvent of the filtrate is subsequently distilled off, and the residue obtained is dried for 1 hour at an oil-bath temperature of 50° C. under reduced pressure at 7.0 Pa, giving 2.78 g of bis(dimethylamino)chlorocarbenium methylsulfate as a viscous liquid, corresponding to a yield of 98.3%.

reactant | sodium methylsulfate | 11.48 mmol, 1.54 g | COS(=O)(=O)[O-].[Na+]
reactant | bis(dimethylamino)dichloromethane | 11.46 mmol, 1.96 g | CN(C)C(Cl)(Cl)N(C)C | C5H12Cl2N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | bis(dimethylamino)chlorocarbenium methylsulfate | 2.78 g, yield of 98.3% | COS(=O)(=O)[O-].CN(C)[C+](Cl)N(C)C | InChI=1S/C5H12ClN2.CH4O4S/c1-7(2)5(6)8(3)4;1-5-6(2,3)4/h1-4H3;1H3,(H,2,3,4)/q+1;/p-1
